US07446184B2
Preparation of 1-bromo-8-hydroxynaphthalene-3,6-disulfonic acid
1-Amino-8-hydroxynaphthalene-3,6-disulfonic acid (72% strength, 44.4 g, 0.1 mol) was stirred in a mixture of water (340 mls) and 48% hydrobromic acid (20 mls). The suspension was cooled to 0-5° C. and sodium nitrite (7.6 g, 0.11 mol) was added in small portions. The mixture was stirred for 2 hours at 0-5° C. and then the excess nitrous acid was destroyed by the addition of sulfamic acid solution. Further 48% hydrobromic acid (70 mls) was added and the mixture cooled to 5° C. A solution of copper (I) bromide (14.4 g, 0.1 mol) in 48% hydrobromic acid (30 mls) and water (20 mls) was then added dropwise at 0-5° C. The mixture was stirred for 10 minutes at 5° C. and then the temperature was slowly raised to and maintained at 90° C. for 1 hour. The reaction mixture was cooled to room temperature and sodium chloride added (30% w/v). The product was collected by filtration and washed with 20% sodium chloride solution. The dried product (56 g) contained 49% sodium chloride. Yield 74%.

reactant | 1-Amino-8-hydroxynaphthalene-3,6-disulfonic acid | 0.1 mol, 44.4 g | NC1=CC(=CC2=CC(=CC(=C12)O)S(=O)(=O)O)S(=O)(=O)O | C10H9NO7S2
reactant | sodium nitrite | 0.11 mol, 7.6 g | N(=O)[O-].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
reactant | hydrobromic acid | 20 mls | Br | BrH
reactant | hydrobromic acid | 30 mls | Br | BrH
solvent | water | 340 mls | O | H2O
solvent | water | 20 mls | O | H2O
catalyst | copper (I) bromide | 0.1 mol, 14.4 g | [Cu]Br
product | 1-bromo-8-hydroxynaphthalene-3,6-disulfonic acid | Yield 74% | BrC1=CC(=CC2=CC(=CC(=C12)O)S(=O)(=O)O)S(=O)(=O)O | C10H7BrO7S2
